data/oMe_Silver.jsonl
{"reaction_id": "NG-004_1-S(=O)(=O)C_2-C1CCCC1_3-C1C2CC3CC1CC(C2)C3","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(S(=O)(=O)C)C=O","C(C1CCCC1)(C1C2CC3CC1CC(C2)C3)=O"],"products_smiles": ["C(C1CCCC1)(C1C2CC3CC1CC(C2)C3)=C(C=O)S(=O)(=O)C"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(S(=O)(=O)C)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCC1)(C1C2CC3CC1CC(C2)C3)([O-])C(C=O)S(=O)(=O)C","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of C1CCCC1, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCC1)(C1C2CC3CC1CC(C2)C3)(O)C(C=O)S(=O)(=O)C","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCC1)(C1C2CC3CC1CC(C2)C3)(O)C=C([O-])S(=O)(=O)C","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCC1)(C1C2CC3CC1CC(C2)C3)=C(C=O)S(=O)(=O)C","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
